US07468375B2
Step 4: Ethyl 4-[(E)-2-(dimethylamino)vinyl]-5-nitropyridine-2-carboxylate:
A mixture of ethyl 4-methyl-5-nitropyridine-2-carboxylate (39.5 g, 0.19 mol), dimethylformamide-dimethylacetal (DMF-DMA) (30.6 g, 0.26 mol, 1.35 eq) in DMF (470 mL) was heated to 90° C. for 30 min. The solvent was removed in vacuo. The residue (78 g) was used without further purification in the next step.

reactant | ethyl 4-methyl-5-nitropyridine-2-carboxylate | 0.19 mol, 39.5 g | CC1=CC(=NC=C1[N+](=O)[O-])C(=O)OCC | C9H10N2O4
reactant | dimethylformamide-dimethylacetal | 0.26 mol, 30.6 g, 1.35 eq | COC(N(C)C)OC | C5H13NO2
solvent | DMF | 470 mL | CN(C)C=O | C3H7NO
product | Ethyl 4-[(E)-2-(dimethylamino)vinyl]-5-nitropyridine-2-carboxylate | CN(/C=C/C1=CC(=NC=C1[N+](=O)[O-])C(=O)OCC)C | C12H15N3O4
